US08404859B2
(S)-2-({5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carbonyl}-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid
To a solution of (S)-2-({5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carbonyl}-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester (130 mg, 0.22 mmol) in THF (4 mL) was added a solution of lithium hydroxide monohydrate (94 mg, 2.24 mmol) in water (6 mL). The mixture was then stirred at room temperature overnight. The mixture was then acidified with 1N HCl and extracted with EtOAc (×3). The extracts were combined, washed with water and brine, dried over sodium sulfate, filtered, and evaporated to pure product, 0.1159 g (93%). MS m/e 565.9 (M+H+).

reactant | (S)-2-({5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carbonyl}-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester | 0.22 mmol, 130 mg | COC([C@H](CNC(=O)C=1SC=CC1)NC(=O)C=1SC(=CC1C(F)(F)F)C(NCC1=C2C=NNC2=CC=C1)=O)=O | C24H20F3N5O5S2
reactant | lithium hydroxide monohydrate | 2.24 mmol, 94 mg | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
product | (S)-2-({5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carbonyl}-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid | N1N=CC2=C(C=CC=C12)CNC(=O)C1=CC(=C(S1)C(=O)N[C@H](C(=O)O)CNC(=O)C=1SC=CC1)C(F)(F)F | C23H18F3N5O5S2
